US06756378B2
To a stirred solution of methyl 1-(tert-butoxycarbonyl)-4,4-difluoropyrrolidine-2-carboxylate (885 mg, 3.34 mmol) in THF (25 ml) was added 0.25 N NaOH (26.7 ml, 6.67 mmol) and the stirring was continued for 1 h. The mixture was poured into 1 N HCl (100 ml) and extracted with CHCl3 (2×200 ml). The combined extracts were washed with brine (100 ml), dried over MgSO4, and evaporated to give 1-(tert-butoxycarbonyl)-4,4-difluoropyrrolidine-2-carboxylic acid (775 mg, 92%) as a yellow crystalline solid. mp 113-117° C.; 1H-NMR (CDCl3) δ1.44 and 1.49 (s, each, total 9 H), 2.53-2.80 (m, 2 H), 3.71-3.90 (m, 2 H), 4.20-4.61 (m, 1 H); MS (FAB) m/z, 252 (M++1); Anal. Calcd. for C10H15F2O4: C, 47.81; H, 6.02; N, 5.58. Found: C, 48.06; H, 6.05; N, 5.45.

reactant | methyl 1-(tert-butoxycarbonyl)-4,4-difluoropyrrolidine-2-carboxylate | 3.34 mmol, 885 mg | C(C)(C)(C)OC(=O)N1C(CC(C1)(F)F)C(=O)OC | C11H17F2NO4
reactant | NaOH | 6.67 mmol, 0.25 N, 26.7 ml | [OH-].[Na+]
reactant | HCl | 1 N, 100 ml | Cl | ClH
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 1-(tert-butoxycarbonyl)-4,4-difluoropyrrolidine-2-carboxylic acid | 775 mg, 92% | C(C)(C)(C)OC(=O)N1C(CC(C1)(F)F)C(=O)O | C10H15F2NO4
